US04192800
When the 3-acetylamino-4-(2',4'-di-bromo-6'-nitrophenylazo)-N,N-diethylaniline employed in Example 9 was replaced by 4-(2'-bromo-4'-nitrophenylazo)-N,N-di(β-acetoxyethyl)aniline (4.8 parts) reaction was effectively complete in 7 hours at 90° C. Isolation of the product by the method of Example 9 gave 4-(2'-cyano-4'-nitrophenylazo)-N,N-di(β-acetoxyethyl)aniline (Found: C, 57.4; H, 5.1; N, 16.1. C21H21N5O6 requires C, 57.4; H, 4.8; N, 15.95%).

reactant | 3-acetylamino-4-(2',4'-di-bromo-6'-nitrophenylazo)-N,N-diethylaniline | C(C)(=O)NC=1C=C(N(CC)CC)C=CC1N=NC1=C(C=C(C=C1[N+](=O)[O-])Br)Br | C18H19Br2N5O3
reactant | 4-(2'-bromo-4'-nitrophenylazo)-N,N-di(β-acetoxyethyl)aniline | BrC1=C(C=CC(=C1)[N+](=O)[O-])N=NC1=CC=C(N(CCOC(C)=O)CCOC(C)=O)C=C1 | C20H21BrN4O6
product | 4-(2'-cyano-4'-nitrophenylazo)-N,N-di(β-acetoxyethyl)aniline | 15.95% | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])N=NC1=CC=C(N(CCOC(C)=O)CCOC(C)=O)C=C1 | C21H21N5O6
